US04558150
(h) 1-[N-[(3S)-3-(Benzoylamino)-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-L-alanyl]-L-proline, 1,1-dimethylethyl ester (isomer A)
A mixture of (S)-β-(benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanal (isomer A) (0.45 g., 1.07 mmole), L-alanyl-L-proline, 1,1-dimethylethyl ester (0.78 g., 3.21 mmole), and crushed 3A° molecular sieves (2 g.) in tetrahydrofuran (5 ml.) and absolute ethanol (5 ml.) is stirred at room temperature under argon. After 2.5 hours, sodium cyanoborohydride (0.20 g., 3 eq.) is added and stirring continued for 15 hours. The reaction mixture is filtered to remove the sieves and the filtrate is diluted with ethyl acetate and washed with water, 1N hydrochloric acid (twice), 1N sodium bicarbonate, and brine. After drying over anhydrous MgSO4, the solvent is removed to give the desired product, as a mixture of diastereomers, as a pale yellow oil. TLC (silica gel, benzene:acetone, 4:1) isomer A at Rf =0.30 and isomer B at Rf =0.13. Flash chromatography (silica gel LPS-1; benzene:acetone, 7:3) affords impure product (isomer A). Repeated flash chromatography (silica gel LPS-1; ethyl acetate:benzene, 6:4) gives 0.20 g. of 1-[N-[(3S)-3-(benzoylamino)-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-L-alanyl]-L-proline, 1,1-dimethylethyl ester (isomer A) as a nearly colorless oil.

reactant | (S)-β-(benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanal | C(C1=CC=CC=C1)(=O)NC([C@@H](C=O)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C25H25NO3S
reactant | L-alanyl-L-proline, 1,1-dimethylethyl ester | 3.21 mmole, 0.78 g | N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C12H22N2O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.20 g, 3 eq. | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[N-[(3S)-3-(Benzoylamino)-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-L-alanyl]-L-proline, 1,1-dimethylethyl ester | C(C1=CC=CC=C1)(=O)N[C@H](C(CN[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C37H47N3O5S
